US04461774
To a solution of (+)-3-[2-(4-chlorophenyl)isovaleroyloxy]-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2-propanol (2.89 g; M.P., 145°-146.5° C.) in methanol (40 ml) was added a 20% aqueous potassium hydroxide solution (6 ml), and the mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo, and the oily residue was dissolved in 6N hydrochloric acid (30 ml). The acidic aqueous solution was washed with chloroform (20 ml×2) and then neutralized with a 28% aqueous ammonia solution. The resulting crystals were collected by filtration to give (+)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol. Yield, 1.51 g; 81%. M.P., 143° C. [α]D19, -113.1° (C=1.0, MeOH).

reactant | (+)-3-[2-(4-chlorophenyl)isovaleroyloxy]-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2-propanol | 2.89 g | ClC1=CC=C(C=C1)C(C(=O)OCC(CN1C=NC=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C(C)C | C23H23Cl3N2O3
reactant | potassium hydroxide | 6 ml | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | (+)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)(CO)O | C12H12Cl2N2O2
